US09278910B2
Prepared using General Procedure 2: To a stirred solution of 4′-methyl-[1,1′-biphenyl]-4-carboxylic acid (0.5 g, 2.35 mmol) in DCM (10 mL) was added DMF (3 drops) then oxalyl chloride (0.262 mL, 3.1 mmol) and left for 2 h. The reaction mixture was added to a solution of 4-hydroxybenzaldehyde (0.31 g, 2.6 mmol) and TEA (0.4 mL, 2.82 mmol) in DCM (10 mL) and stirred for 18 h. The reaction mixture was diluted with DCM (100 mL) and washed with NaHCO3 (100 mL). The organic layer was pre-absorbed onto silica gel and then purified by chromatography (EA/isohexanes) to afford 300 mg (40%) 4-formylphenyl 4′-methyl-[1,1′-biphenyl]-4-carboxylate INT-27 as a white solid. LCMS-ESI (m/z) calculated for C21H16O3: 316; no m/z observed, tR=4.25 min (Method 1).

reactant | 4′-methyl-[1,1′-biphenyl]-4-carboxylic acid | 2.35 mmol, 0.5 g | CC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C14H12O2
reactant | oxalyl chloride | 3.1 mmol, 0.262 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-hydroxybenzaldehyde | 2.6 mmol, 0.31 g | OC1=CC=C(C=O)C=C1 | C7H6O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-formylphenyl 4′-methyl-[1,1′-biphenyl]-4-carboxylate | 300 mg, 40% | CC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC1=CC=C(C=C1)C=O | C21H16O3
